US07585878B2
A suspension of 329 mg of 3-chloro-N-methyl-5-nitropyridin-2-ylamine, 489 mg of iron powder, and 9 ml of acetic acid was stirred at 60° C. for 2 hours. After the reaction solution was cooled to room temperature, ethanol was added thereto and the solution was filtrated through celite. The filtrate was concentrated under reduced pressure and ethyl acetate and a saturated aqueous sodium bicarbonate solution were added thereto. To the organic layer obtained by an operation of separation was added a 1M aqueous sodium hydroxide solution, followed by an operation of separation. The resulting organic layer was dried over anhydrous sodium sulfate and filtrated and then the resulting filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol) to obtain 193 mg of 3-chloro-2-methylamino-5-aminopyridine as a brown oil.

reactant | 3-chloro-N-methyl-5-nitropyridin-2-ylamine | 329 mg | ClC=1C(=NC=C(C1)[N+](=O)[O-])NC | C6H6ClN3O2
reactant | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 1M | [OH-].[Na+]
catalyst | iron | 489 mg | [Fe] | Fe
solvent | ethanol | C(C)O | C2H6O
product | 3-chloro-2-methylamino-5-aminopyridine | 193 mg | ClC=1C(=NC=C(C1)N)NC | C6H8ClN3
